US07420001B2
Biphenyl (46.3 g, 0.3 mol) was dissolved in 500 ml of chloroform. The solution was cooled in an ice/water bath. Chlorosulfonic acid (19.9 ml, 1 eq) was added dropwise over 30 min. The ice/water bath was removed and the reaction mixture was stirred at room temperature overnight. The reaction mixture was filtered and the solid was washed with CHCl3 to provide 41.2 g of biphenyl-4-sulfonic acid as a white solid.

reactant | Biphenyl | 0.3 mol, 46.3 g | C1(=CC=CC=C1)C1=CC=CC=C1 | C12H10
reactant | Chlorosulfonic acid | 19.9 ml, 1 eq | ClS(=O)(=O)O | ClHO3S
solvent | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
product | biphenyl-4-sulfonic acid | 41.2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C1=CC=CC=C1 | C12H10O3S
